US08071584B2
3-(2,6-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(3-thienyl)-1H-indole-7-carboxamide
5-bromo-3-(2,6-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (0.050 g, 0.125 mmol) and 3-thienylboronic acid (0.016 g, 0.125 mmol) was dissolved in a 6:1 solution of 1,4 dioxane (3 mL)/water (0.5 mL) in a 20 mL microwave reaction vessel. Potassium carbonate (0.087 g, 0.626 mmol, 5 eq) was added and the solution was degassed with Nitrogen. PdCl2(dppf)2 (0.016 g, 0.021 mmol, 0.17 eq) was added and the reaction was heated in a microwave at 100° C. for 20 min. The solution was passed through a StratoSphere SPE PL-Thiol MP SPE column to remove palladium and purified on Gilson preparative HPLC using Acetonitrile/Water with 0.1% TFA. The desired fractions were concentrated, giving 0.051 g of a mixture of diasteriomers and their respective enantiomers.

reactant | 5-bromo-3-(2,6-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.125 mmol, 0.050 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(C(C1)C)(=O)=O)C | C16H19BrN2O3S
reactant | 3-thienylboronic acid | 0.125 mmol, 0.016 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | Potassium carbonate | 0.626 mmol, 0.087 g, 5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4 dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | PdCl2(dppf)2 | 0.021 mmol, 0.016 g, 0.17 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(2,6-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(3-thienyl)-1H-indole-7-carboxamide | 0.051 g | CC1S(C(CC(C1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N)C)(=O)=O | C20H22N2O3S2
